US06713508B2
Step D: Ethyl 7-(3-(2-chloro-4-(2,2,2-trifluoroethoxy)phenoxy)propoxy)-chromane-2-carboxylate
To a 40 ml DMF solution of ethyl 7-hydroxy-chromane-2-carboxylate (1.81 g, 8.15 mmol) and 3-bromopropyl 2-chloro-4-(2,2,2-trifluoroethoxy)phenyl ether (3.4 g, 9.8 mmol) was added cesium carbonate (3.2 g, 9.8 mmol). The resulting suspension was heated to 70° C. for 5 hr. The solvent was removed under reduced pressure. The residue was diluted with AcOEt and 2N hydrochloric acid. The organic layer was separated, and the aqueous layer was extracted twice with AcOEt. The combined organic layers were dried over anhydrous Na2SO4, filtered, concentrated, and chromatographed on slica gel eluting with 20% AcOEt/hexanes to give the title compound 3.23 g (81%).

reactant | ethyl 7-hydroxy-chromane-2-carboxylate | 8.15 mmol, 1.81 g | OC1=CC=C2CCC(OC2=C1)C(=O)OCC | C12H14O4
reactant | 3-bromopropyl 2-chloro-4-(2,2,2-trifluoroethoxy)phenyl ether | 9.8 mmol, 3.4 g | ClC1=C(C=CC(=C1)OCC(F)(F)F)OCCCBr | C11H11BrClF3O2
reactant | cesium carbonate | 9.8 mmol, 3.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | Ethyl 7-(3-(2-chloro-4-(2,2,2-trifluoroethoxy)phenoxy)propoxy)-chromane-2-carboxylate | 3.23 g, 81% | ClC1=C(OCCCOC2=CC=C3CCC(OC3=C2)C(=O)OCC)C=CC(=C1)OCC(F)(F)F | C23H24ClF3O6
